US04232039
5-Methyl-6-phenyl-benzofuran
830 mg of 2,3-Dihydro-5-methyl-6-phenyl-benzofuran and 100 mg of palladium on charcoal are refluxed for 48 hours in 10 ml of freshly distilled p-cymol. After cooling, the mixture is filtered through talc and the filtrate evaporated. The residue is chromatographed on 15 g of Kieselgel. 5-Methyl-6-phenyl-benzofuran is eluted with toluene as a uniformly oily liquid.

reactant | 2,3-Dihydro-5-methyl-6-phenyl-benzofuran | 830 mg | CC=1C(=CC2=C(CCO2)C1)C1=CC=CC=C1 | C15H14O
reactant | p-cymol | C=1(C(=CC(=CC1)C)O)C(C)C | C10H14O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | 5-Methyl-6-phenyl-benzofuran | CC=1C(=CC2=C(C=CO2)C1)C1=CC=CC=C1 | C15H12O
